US08710236B2
Step C: 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic Acid
4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic acid tert-butyl ester (˜140 mg, 0.19 mmol) was taken up in 5 mL of dichloromethane followed by addition of 0.5 mL of TFA and stirred for 16 h at RT. Removal of the organic layer and water was added to give a precipitate, which was filtered to give 110 mg (100%) of pinkish solids. LCMS (M−1=531.1).

reactant | 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic acid tert-butyl ester | 0.19 mmol, ˜140 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)N(C)C(C1=CC=C(C=C1)C(C)(C)C)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C38H40N2O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-{[(4-Benzofuran-2-yl-phenylcarbamoyl)-(4-tert-butyl-phenyl)-methyl]-methyl-amino}-benzoic Acid | 110 mg, 100% | O1C(=CC=C2C1=CC=C2)N(C(=O)C(C2=CC=C(C=C2)C(C)(C)C)N(C2=CC=C(C(=O)O)C=C2)C)C2=CC=CC=C2 | C34H32N2O4
